US07790770B2
A mixture of methyl 3-(4-bromophenyl)-2-(4-fluoro-3-(trifluoromethyl)phenyl)-2-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)propanoate (865 mg, 1.34 mmol) in MeOH (10 mL)/THF (20 mL) and LiOH (2 N, 10 mL) was stirred at rt overnight. The reaction mixture was made acidic by addition of 1 N HCl to pH=1-2 and concentrated. The resulting residue was partitioned between EtOAc and sat. NaCl. The organic layer was separated, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by ISCO (40 g siligel column, 0-10% MeOH/DCM over 30 min) to yield 3-(4-bromophenyl)-2-(4-fluoro-3-(trifluoromethyl)phenyl)-2-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)propanoic acid as a colorless oil (650 mg, 81% yield). LCMS: RT=2.17 min [M+H] 600.88 (Phenomenex Luna C18 4.6×30 mm column, eluting with 10-90% MeOH/H2O containing 0.% TFA, 2 min gradient, flow rate 5 mL/min, wavelength 220 nm); HPLC: RT=4.45 min (Phenomenex Luna C18 4.6×50 mm column, eluting with 10-90% MeOH/H2O containing 0.2% PPA, flow rate 4 mL/min, wavelength 220 nm).

reactant | methyl 3-(4-bromophenyl)-2-(4-fluoro-3-(trifluoromethyl)phenyl)-2-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)propanoate | 1.34 mmol, 865 mg | BrC1=CC=C(C=C1)CC(C(=O)OC)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)C1=CC(=C(C=C1)F)C(F)(F)F | C25H16BrF9O3
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | LiOH | 2 N, 10 mL | [Li+].[OH-]
reactant | HCl | 1 N | Cl | ClH
solvent | MeOH | 10 mL | CO | CH4O
product | 3-(4-bromophenyl)-2-(4-fluoro-3-(trifluoromethyl)phenyl)-2-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)propanoic acid | 650 mg, 81% yield | BrC1=CC=C(C=C1)CC(C(=O)O)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)C1=CC(=C(C=C1)F)C(F)(F)F | C24H14BrF9O3
